US04127729
By substituting Nα -[3-(acetylthio)-2-methoxycarbonylmethyl)propanoyl]-L-histidine for the Nα -[3-(acetylthio)-2-(methoxycarbonylmethyl)propanoyl]-L-arginine in the procedure of Example 19, Nα -[3-mercapto-2-(carbamoylmethyl)-propanoyl]-L-histidine is obtained.

reactant | L-histidine | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
reactant | Nα -[3-(acetylthio)-2-(methoxycarbonylmethyl)propanoyl]-L-arginine | C(C)(=O)SCC(C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)CC(=O)OC | C14H24N4O6S
product | Nα -[3-mercapto-2-(carbamoylmethyl)-propanoyl]-L-histidine | SCC(C(=O)N[C@@H](CC1=CNC=N1)C(=O)O)CC(N)=O | C11H16N4O4S
